US05597922
Preparation of 4-Nitro-5,6-dibromo-2-hydroxybenzimidazole
The procedure of Cheesman, G. W. H., J. Chem. Soc. 1170 (1962), was adapted. To a stirred suspension of 5,6-dibromo-2-hydroxybenzimidazole (140 mg, 0.48 mmol) in concentrated H2SO4 (1 mL) at 0° C. was added KNO3 (58.5 mg, 0.56 mmol, Baker) in one portion. The mixture was stirred at 0° C. for 3 h then at room temperature for one day. The mixture became a blue solution. Then it was poured into ice (30 g) resulting in the separation of a bright yellow precipitate which was collected by filtration and washed with distilled water (2×1 mL) followed by ethanol (2×1 mL) to give 150 mg of crude title compound (90%) (contains minor impurities by NMR). Crystallization from DMSO/H2O gave pure title compound as bright yellow microcrystals, mp 305°-308° C. (dec.). IR (KBr, cm-1): 3412, 3143, 1712, 1537. 1H NMR (DMSO-d6): δ 7.430 (s, 1H), 11.455 (s, 1H), 11.715 (s, 1H). HRMS: calcd for C7H3N3O3Br2 (M+) m/z: 334.8538; found 334.8540. Potency relative to DCK: inactive.

reactant | 5,6-dibromo-2-hydroxybenzimidazole | 0.48 mmol, 140 mg | BrC1=CC2=C(N=C(N2)O)C=C1Br | C7H4Br2N2O
reactant | KNO3 | 0.56 mmol, 58.5 mg | [N+](=O)([O-])[O-].[K+]
solvent | H2SO4 | 1 mL | OS(=O)(=O)O | H2O4S
product | 4-Nitro-5,6-dibromo-2-hydroxybenzimidazole | [N+](=O)([O-])C1=C(C(=CC=2N=C(NC21)O)Br)Br | C7H3Br2N3O3
